US06225322B1
Preparation of ethyl 4-(3-bromo-6,11-dihydro-5H-cyclohepta [2,1-b:4,5-b′]dipyridin-11-yl)-1-piperidinecarboxylate
Ethyl 4-(3-amino-6,11-dihydro-5H-cyclohepta[2,1-b:4,5-b′]dipyridin-11-yl)-1-piperidinecarboxylate ( 0.05 gm, 0.136 mmol) was dissolved in 4 ml of 48% hydrobromic acid. The reaction mixture was cooled to 0° C. and bromine (0.038 ml, 0.738 mmol) was added dropwise and stirred for 15 minutes. Sodium nitrite (0.028 gm, 0.408 mmol) was added, as a solution in 0.5 ml of water, dropwise over 15 minutes. The reaction was stirred at 0° C. for 3-4 hours. The reaction mixture was basified to pH 10 with 10% sodium hydroxide and the produt extracted into ethylacetate. The ethylacetate layer was dried over magnesium sulfate, filtered and evaporated to dryness. The crude product was chromatographed on silica gel using 10-20% methanol/dichoromethane as the eluent to obtain 0.035 gm of title product. FABMS (M+1)=431

reactant | Ethyl 4-(3-amino-6,11-dihydro-5H-cyclohepta[2,1-b:4,5-b′]dipyridin-11-yl)-1-piperidinecarboxylate | 0.136 mmol, 0.05 gm | NC=1C=C2C(=NC1)C(C1=NC=CC=C1CC2)C2CCN(CC2)C(=O)OCC | C21H26N4O2
reactant | bromine | 0.738 mmol, 0.038 ml | BrBr | Br2
reactant | Sodium nitrite | 0.408 mmol, 0.028 gm | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrobromic acid | 4 ml | Br | BrH
solvent | water | 0.5 ml | O | H2O
product | ethyl 4-(3-bromo-6,11-dihydro-5H-cyclohepta [2,1-b:4,5-b′]dipyridin-11-yl)-1-piperidinecarboxylate | 0.035 gm | BrC=1C=C2C(=NC1)C(C1=NC=CC=C1CC2)C2CCN(CC2)C(=O)OCC | C21H24BrN3O2
